US04243406
The procedure of Example 12 was employed utilizing ethyl-2-(4'-trifluoromethylbenzoyl)-3-dimethylaminopropenoate in lieu of ethyl-2-(2',4'-dichlorobenzoyl)-3-dimethylaminopropenoate to yield ethyl-5-(4'-trifluoromethylphenyl)-4-isoxazolecarboxylate (2.03 g.; 47% yield) as yellow crystals having a melting point of 42°-44° C. and the following analysis:

reactant | ethyl-2-(4'-trifluoromethylbenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C15H16F3NO3
reactant | ethyl-2-(2',4'-dichlorobenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O)=O | C14H15Cl2NO3
product | ethyl-5-(4'-trifluoromethylphenyl)-4-isoxazolecarboxylate | 2.03 g, 47% yield | C(C)OC(=O)C=1C=NOC1C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO3
